US07566736B2
A suspension of 2.57 g (12.53 mmol) of 7-nitro-1H-indole-2-carboxamide in 35 ml of pyridine is cooled to 0° C. in a water/ice bath. A solution of 4.01 g (12.53 mmol) of pyridinium tribromide in 20 ml of pyridine is then added at 0° C. dropwise, and the reaction is then stirred at 0° C. for 30 minutes and at ambient temperature for 16 h. 70 ml of ice-cold water are then added to the reaction medium. The latter is then stirred at ambient temperature for 15 minutes and is then filtered over sintered glass, to give 2.81 g of 3-bromo-7-nitro-1H-indole-2-carboxamide in the form of a brown solid.

reactant | 7-nitro-1H-indole-2-carboxamide | 12.53 mmol, 2.57 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)N | C9H7N3O3
reactant | pyridinium tribromide | 12.53 mmol, 4.01 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-bromo-7-nitro-1H-indole-2-carboxamide | 2.81 g | BrC1=C(NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)N | C9H6BrN3O3
